US06927230B2
A mixture of 1,5-bis(4-methoxyphenyl)-3-(methylthio)-1H-1,2,4-triazole (150 mg, 0.458 mmol) and m-chloroperbenzoic acid (119 mg, 0.687 mmol) in dichloromethane (1.5 mL) was stirred for 3 hours at room temperature. The solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (dichloromethane-2% methanol in dichloromethane) to give 1,5-bis(4-methoxyphenyl)-3-(methylsulfinyl)-1H-1,2,4-triazole (152 mg, 96.6% yield).

reactant | 1,5-bis(4-methoxyphenyl)-3-(methylthio)-1H-1,2,4-triazole | 0.458 mmol, 150 mg | COC1=CC=C(C=C1)N1N=C(N=C1C1=CC=C(C=C1)OC)SC | C17H17N3O2S
reactant | m-chloroperbenzoic acid | 0.687 mmol, 119 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | 1,5-bis(4-methoxyphenyl)-3-(methylsulfinyl)-1H-1,2,4-triazole | 152 mg, 96.6% yield | COC1=CC=C(C=C1)N1N=C(N=C1C1=CC=C(C=C1)OC)S(=O)C | C17H17N3O3S
